US04687775
2-[(imidazo[1,2-a]pyridin-8-ylmethyl)thio]-5-methoxy-1H-benzimidazole
A mixture of 2.92 g (23 mmole) of 3-hydroxymethyl-2-pyridinamine, 6.15 g (35 mmole) of chloroacetaldehyde, and 2.0 g (35 mmole) of sodium bicarbonate in 100 ml of ethanol was heated at reflux for 1.5 hours. The mixture was filtered and the filtrate was concentrated in vacuo to a solid. Recrystallization from diethyl ether yielded 4.4 g of 8-hydroxymethylimidazo[1,2-a]pyridine, as confirmed by the nmr and infrared spectra. A mixture of 683 mg (3.8 mmole) of 2-mercapto-5-methoxybenzimidazole and 700 mg (3.8 mmole) of 8-hydroxymethylimidazo[1,2-a]pyridine was dissolved in 3 ml of 30% hydrogen bromide in acetic acid and heated on a steam bath. After being cooled to room temperature, the mixture was partitioned between 5% aqueous sodium hydroxide and dichloromethane. The organic layer was dried over sodium sulfate, filtered, and concentrated to yield the title compound as an oil. Structure assignment was supported by the nmr and infrared spectra.

reactant | 2-mercapto-5-methoxybenzimidazole | 3.8 mmole, 683 mg | SC=1NC2=C(N1)C=CC(=C2)OC | C8H8N2OS
reactant | 8-hydroxymethylimidazo[1,2-a]pyridine | 3.8 mmole, 700 mg | OCC=1C=2N(C=CC1)C=CN2 | C8H8N2O
solvent | hydrogen bromide | 3 ml | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-[(imidazo[1,2-a]pyridin-8-ylmethyl)thio]-5-methoxy-1H-benzimidazole | N=1C=CN2C1C(=CC=C2)CSC2=NC1=C(N2)C=CC(=C1)OC | C16H14N4OS
